US06127354
(2R)-2-(N-(tert-Butoxycarbonyl)-N-methylamino)-3-(2-naphthyl)propionic acid (517 mg, 1.57 mmol) and 1-hydroxy-7-azabenzotriazole (214 mg, 1.57 mmol) were dissolved in dichloromethane (6 ml) and N,N-dimethylformamide (6 ml). The mixture was cooled to 0° C. N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (301 mg, 1.57 mmol) was added. The reaction mixture was stirred for 15 min at 0° C. A solution of N-[2-(2-(methylamino)ethyl)phenyl]benzenesulfonamide (457 mg, 1.57 mmol) in dichloromethane (6 ml) and ethyldiisopropylamine (0.27 ml, 1.57 mmol) were added successively. The reaction mixture was stirred for 16 h, while it was warming up to room temperature. It was diluted with ethyl acetate (100 ml) and washed with a 10% aqueous sodium hydrogen sulfate solution (100 ml). The aqueous phase was extracted with ethyl acetate (2×30 ml). The combined organic layers were washed with a saturated aqueous solution of sodium hydrogen carbonate and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (25 g), using ethyl acetate/heptane 1:1 as eluent, to give 785 mg of N-((1R)-1-{N-[2-(2-(phenylsulfonylamino)phenyl)ethyl]-N-methylcarbamoyl}-2-(2-naphthyl)ethyl)-N-methylcarbamic acid tert-butyl ester.

reactant | (2R)-2-(N-(tert-Butoxycarbonyl)-N-methylamino)-3-(2-naphthyl)propionic acid | 1.57 mmol, 517 mg | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC2=CC=CC=C2C=C1 | C19H23NO4
reactant | 1-hydroxy-7-azabenzotriazole | 1.57 mmol, 214 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-(3-Dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 1.57 mmol, 301 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-[2-(2-(methylamino)ethyl)phenyl]benzenesulfonamide | 1.57 mmol, 457 mg | CNCCC1=C(C=CC=C1)NS(=O)(=O)C1=CC=CC=C1 | C15H18N2O2S
reactant | ethyldiisopropylamine | 1.57 mmol, 0.27 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-((1R)-1-{N-[2-(2-(phenylsulfonylamino)phenyl)ethyl]-N-methylcarbamoyl}-2-(2-naphthyl)ethyl)-N-methylcarbamic acid tert-butyl ester | 785 mg | C(C)(C)(C)OC(N(C)[C@H](CC1=CC2=CC=CC=C2C=C1)C(N(C)CCC1=C(C=CC=C1)NS(=O)(=O)C1=CC=CC=C1)=O)=O | C34H39N3O5S
